US06451740B2
2-(2-chloro-4-fluoro-5-methoxycarbonylaminophenoxy)phenol [Intermediate compound A9-4] is dissolved in N,N-dimethylformamide, then, potassium carbonate is added, and the mixture is stirred for 1 hour at room temperature. Then, methyl bromoacetate is added at room temperature. The mixture is stirred at 60° C. for 2 hours, poured into water, extracted with ethyl acetate, and the organic layer is washed with dilute hydrochloric acid and water, dried over magnesium sulfate and concentrated to obtain methyl [2-(2-chloro-4-fluoro-5-methoxycarbonylaminophenoxy)phenoxy]acetate [Intermediate compound A9-22].

reactant | 2-(2-chloro-4-fluoro-5-methoxycarbonylaminophenoxy)phenol | ClC1=C(OC2=C(C=CC=C2)O)C=C(C(=C1)F)NC(=O)OC | C14H11ClFNO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | methyl [2-(2-chloro-4-fluoro-5-methoxycarbonylaminophenoxy)phenoxy]acetate | ClC1=C(OC2=C(OCC(=O)OC)C=CC=C2)C=C(C(=C1)F)NC(=O)OC | C17H15ClFNO6
